US09023847B2
34. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-phenylamino-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using N-phenylethylenediamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 378 (M+H) 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.00 (1H, d, J=5.66 Hz) 7.62 (1H, d, J=5.42 Hz) 7.45 (1H, d, J=5.37 Hz) 7.25 (1H, d, J=3.56 Hz) 7.07 (2H, dd, J=8.66, 7.30 Hz) 6.86 (1H, d, J=5.66 Hz) 6.51-6.67 (4H, m) 3.55 (2H, t, J=6.47 Hz) 3.25-3.30 (2H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-phenylamino-ethyl)-amide | C1(=CC=CC=C1)NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H19N5OS
